US05834454
A mixture of ethyl 5,6,7,8-tetrahydro-11-chloro-8-hydroxy-4H-azocino [3,2,1-hi]indole-2-carboxylate (0.70 g, 2.27 mmol), triethylamine (0.61 g, 6.00 mmol) and tetrahydrofuran (30 ml) was cooled to -20° C. with stirring, and methanesulfonyl chloride (0.31 g, 2.73 mmol) was added dropwise. After completion of the dropwise addition, the reaction temperature was raised to room temperature and the reaction mixture was allowed to stand overnight at room temperature. The reaction mixture was poured into an aqueous ammonium chloride solution and extracted twice with ethyl acetate, and the extract solution was washed with an aqueous sodium hydrogencarbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetatein-hexane= 2/98) to obtain 0.63 g of ethyl 5,6-dihydro-11-chloro-4H-azocino [3,2,1-hi]indole-2-carboxylate.

reactant | ethyl 5,6,7,8-tetrahydro-11-chloro-8-hydroxy-4H-azocino [3,2,1-hi]indole-2-carboxylate | 2.27 mmol, 0.70 g | ClC1=C2C=C(N3C2=C(C=C1)C(CCCC3)O)C(=O)OCC | C16H18ClNO3
reactant | triethylamine | 6.00 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.73 mmol, 0.31 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 5,6-dihydro-11-chloro-4H-azocino [3,2,1-hi]indole-2-carboxylate | 0.63 g | ClC1=C2C=C(N3C2=C(C=C1)C=CCCC3)C(=O)OCC | C16H16ClNO2
